US06080752
7-Methoxy-4-methyl-1,2,3,4,5,6-hexahydrobenzo[f]quinoline
A solution of sodium bis-(2-methoxyethoxy)aluminium hydride in toluene (Red-Al, 65% wt, 37.2 ml, 124 mmol) was added to a stirred solution of 7-methoxy-4-methyl-1,4,5,6-tetrahydro-2H-benzo[f]quinoline-3-one (10 g, 41.2 mmol) in toluene (200 ml). The mixture was heated at reflux, under argon for 6 h and allowed to cool. Water (7 ml) was added dropwise with ice cooling and the aluminium salts dissolved by addition of 50% KOH (37 ml). The organic phase was separated, washed with water (2×100 ml), dried (Na2SO4) and concentrated in vacuo to afford an oil which was chromatographed on silica gel, with 10-15% ethyl acetate-pentane gradient elution to give the title compound as a yellow oil (5.5 g, 58%)

reactant | sodium bis-(2-methoxyethoxy)aluminium hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | Red-Al | COCCO[AlH2-]OCCOC.[Na+]
reactant | 7-methoxy-4-methyl-1,4,5,6-tetrahydro-2H-benzo[f]quinoline-3-one | 41.2 mmol, 10 g | COC1=CC=CC=2C=3CCC(N(C3CCC21)C)=O | C15H17NO2
reactant | KOH | 37 ml | [OH-].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | 7 ml | O | H2O
product | 7-Methoxy-4-methyl-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | 5.5 g, 58% | COC1=CC=CC=2C=3CCCN(C3CCC21)C | C15H19NO
